US05026856
7-(4-fluoro-2-isoindolinyl)-1-cyclopropyl-6-fluoro 1,4- dihydro-4-oxoquinoline-3-carboxylic acid
A mixture of 136 mg of 1-cyclopropyl-6,7-difluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid, 206 mg of 4-fluoroisoindoline, and 1.5 ml of anhydrous DMF was heated at 110° C. for 1.5 hours while stirring. The resulting reaction mixture was evaporated under reduced pressure to dryness. 20 ml of chloroform and 10 ml of 5% acetic acid were added to the residue thus obtained, and the mixture was stirred. The deposited crystals were collected by filtration and washed with water and then ethanol. The chloroform layer was separated, washed with water, dried over anhydrous sodium sulfate, and condensed. The residue was crystallized by the addition of hot ethanol. After cooling the mixture, the crystals were collected by filtration. These crystals, combined with the crystals obtained above, were recrystallized from a mixed solvent of chloroform, methanol, and ethanol to obtain 85 mg of the target compound.

reactant | 1-cyclopropyl-6,7-difluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid | 136 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 4-fluoroisoindoline | 206 mg | FC1=C2CNCC2=CC=C1 | C8H8FN
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(4-fluoro-2-isoindolinyl)-1-cyclopropyl-6-fluoro 1,4- dihydro-4-oxoquinoline-3-carboxylic acid | 85 mg | FC1=C2CN(CC2=CC=C1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C21H16F2N2O3
